US08871756B2
[4-Chloro-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinolin-6-yl]methanol
To a slurry of lithium aluminum hydride (46 mg, 1.21 mmol) in tetrahydrofuran (5 mL) was added a solution of methyl 4-chloro-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinoline-6-carboxylate (400 mg, 0.96 mmol) in tetrahydrofuran (10 mL) at 0° C. under a nitrogen atmosphere. After being allowed to warm to room temperature and stirred for 2 hours, the reaction mixture was cooled to 0° C. and treated with water (0.2 mL) to quench the reaction. The resulting mixture was stirred for 30 minutes, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to afford 321 mg of the desired product as a white solid (yield was 86%).

reactant | lithium aluminum hydride | 1.21 mmol, 46 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 4-chloro-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinoline-6-carboxylate | 0.96 mmol, 400 mg | ClC1=CC(=NC2=CC=C(C=C12)C(=O)OC)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C20H17ClN2O4S
reactant | water | 0.2 mL | O | H2O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | [4-Chloro-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinolin-6-yl]methanol | 321 mg, yield was 86% | ClC1=CC(=NC2=CC=C(C=C12)CO)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O3S
